US05773530
A mixture of 3-[2-(4,4-ethylenedioxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]-pyridine (0.68 g), 1N hydrochloric acid (5 ml), and dioxane (10 ml) was stirred at room temperature for 1 hour and heated at 50° C. for 2 hours. The reaction mixture was poured into 50 ml of water and the mixture was extracted with ethyl acetate (20 ml×2). The combined extracts were sequencially washed with saturated aqueous sodium bicarbonate (30 ml) and brine (30 ml), dried over anhydrous sodium sulfate. Evaporation of the solvent gave yellow crystals of 3-[2-(4-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (610 mg).

reactant | 3-[2-(4,4-ethylenedioxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]-pyridine | 0.68 g | C1OC2(CCC(CC2)N2N=C(C=CC2=O)C=2C(=NN3C2C=CC=C3)C3=CC=CC=C3)OC1 | C25H24N4O3
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 3-[2-(4-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 610 mg | O=C1CCC(CC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H20N4O2
